US07687491B2
(8d) 4-{[t-Butyl(dimethyl)silyl]oxy}-4,5,6,7-tetrahydro-1-benzothiophene-2-carbonitrile
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 1 (1c) using 4-{[t-butyl(dimethyl)silyl]oxy}-4,5,6,7-tetrahydro-1-benzothiophene-2-carboxaldehyde (4.4 g, 15.3 mmol) that was obtained in Example 8 (8c), hydroxylamine hydrochloride (1.1 g, 16 mmol), triethylamine (4.1 ml, 30 mmol), and N,N′-dicyclohexylcarbodiimide (3.4 g, 16 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:9) as the eluent to afford the title compound (4.1 g) in a yield of 94% as a colourless oily product.

reactant | 4-{[t-butyl(dimethyl)silyl]oxy}-4,5,6,7-tetrahydro-1-benzothiophene-2-carboxaldehyde | 15.3 mmol, 4.4 g | [Si](C)(C)(C(C)(C)C)OC1CCCC2=C1C=C(S2)C=O | C15H24O2SSi
reactant | hydroxylamine hydrochloride | 16 mmol, 1.1 g | Cl.NO
reactant | triethylamine | 30 mmol, 4.1 ml | C(C)N(CC)CC | C6H15N
reactant | N,N′-dicyclohexylcarbodiimide | 16 mmol, 3.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 4-{[t-Butyl(dimethyl)silyl]oxy}-4,5,6,7-tetrahydro-1-benzothiophene-2-carbonitrile | [Si](C)(C)(C(C)(C)C)OC1CCCC2=C1C=C(S2)C#N | C15H23NOSSi
